US07557113B2
Synthesis of (cyclopropylhydroxy-methylene)methane-1,1-dicarbonitrile
In a similar manner as described above, [(3-chloro(2-thienyl))hydroxymethylene]methane-1,1-dicarbonitrile was prepared from malononitrile and 3-chlorothiophene-2-carbonylchloride. The NMR data and ESI/MS data of the compound are given below.

reactant | [(3-chloro(2-thienyl))hydroxymethylene]methane-1,1-dicarbonitrile | ClC1=C(SC=C1)C(O)=C(C#N)C#N | C8H3ClN2OS
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 3-chlorothiophene-2-carbonylchloride | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | (cyclopropylhydroxy-methylene)methane-1,1-dicarbonitrile | C1(CC1)C(O)=C(C#N)C#N | C7H6N2O
